US04524123
4-(5-phthalimidomethyl-2-thienyl)-5-p-tolyl imidazole
375 ml of concentrated H2SO4 are added dropwise to a solution of 240 g of 4-(2-thienyl)-5-p-tolyl imidazole (1 mol) in 1,000 ml of propionic acid at 0° C., and 265 g (1.5 mol) of N-hydroxymethyl-phthalimide are added portionwise. The reaction mixture is left at 25° C. for 24 hours with stirring and the resulting suspension is poured out onto 400 g of ice. The precipitate obtained is suction filtered, washed with water, taken up with ammonia (10%) and again suction-filtered.

reactant | H2SO4 | 375 ml | OS(=O)(=O)O | H2O4S
reactant | 4-(2-thienyl)-5-p-tolyl imidazole | 1 mol, 240 g | S1C(=CC=C1)C=1N=CNC1C1=CC=C(C=C1)C | C14H12N2S
reactant | N-hydroxymethyl-phthalimide | 1.5 mol, 265 g | OCN1C(C=2C(C1=O)=CC=CC2)=O | C9H7NO3
solvent | propionic acid | 1,000 ml | C(CC)(=O)O | C3H6O2
product | 4-(5-phthalimidomethyl-2-thienyl)-5-p-tolyl imidazole | C1(C=2C(C(N1CC1=CC=C(S1)C=1N=CNC1C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C23H17N3O2S
